US05017596
Preparation of 1-methyl-α-(3-trifluoromethylphenyl)-1H-imidazole -2-methanol
0.6 g of sodium borohydride is added to a solution of 3.6 g of 1-methyl-α-(3-trifluoromethylphenyl) -1H-imidazole-2-methanone in 25 ml of methanol. The mixture is stirred for 30 minutes and 150 ml of water are added. The precipitate obtained is filtered off and washed with water. It is recrystallized from an ethanol/water mixture.

reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | 1-methyl-α-(3-trifluoromethylphenyl) -1H-imidazole-2-methanone | 3.6 g | CN1C(=NC=C1)C(=O)C1=CC(=CC=C1)C(F)(F)F | C12H9F3N2O
reactant | water | 150 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | 1-methyl-α-(3-trifluoromethylphenyl)-1H-imidazole -2-methanol | CN1C(=NC=C1)C(O)C1=CC(=CC=C1)C(F)(F)F | C12H11F3N2O
